US05753672
A mixture of methyl chloroformate (25.0 g), sulfuryl chloride (35.7 g) and α,α'-azobis(isobutyronitrile) (100 mg) is refluxed for 8 hours. After cooling, the reaction mixture is diluted with hexane (150 ml) and 3-pentanol (24.0 g) is added thereto. Pyridine (42.0 g) is added dropwise to the mixture for 20 minutes under ice-cooling and stirring. After the mixture is stirred at room temperature overnight, hexane (200 ml) is added thereto. The reaction mixture is washed with water, dried, filtered and evaporated to remove the solvent. The residue is distilled under reduced pressure to give 3-pentyloxycarbonyloxymethyl chloride (26.3 g).

reactant | methyl chloroformate | 25.0 g | ClC(=O)OC | C2H3ClO2
reactant | sulfuryl chloride | 35.7 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 3-pentanol | 24.0 g | CCC(CC)O | C5H12O
reactant | Pyridine | 42.0 g | N1=CC=CC=C1 | C5H5N
solvent | hexane | 150 ml | CCCCCC | C6H14
catalyst | α,α'-azobis(isobutyronitrile) | 100 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | hexane | 200 ml | CCCCCC | C6H14
product | 3-pentyloxycarbonyloxymethyl chloride | 26.3 g | CCC(CC)OC(=O)OCCl | C7H13ClO3
